US08629137B2
Step 2: 7-methyl-2,3-dihydro-benzofuran
Under a nitrogen atmosphere 0.610 g (4.06 mmol) 7-methyl-2,3-dihydro-benzofuran-3-ol in 5 mL acetic acid were refluxed for 2 h with 770 μL (8.16 mmol) acetic anhydride. After cooling to RT, 60 mg palladium on charcoal (Pd/C 10%) were added and the mixture was hydrogenated for 3.5 h under a hydrogen atmosphere (3 bar). The catalyst was filtered off and the solvent was evaporated down.

reactant | 7-methyl-2,3-dihydro-benzofuran-3-ol | 4.06 mmol, 0.610 g | CC1=CC=CC=2C(COC21)O | C9H10O2
reactant | acetic anhydride | 8.16 mmol, 770 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 60 mg | [Pd] | Pd
product | 7-methyl-2,3-dihydro-benzofuran | CC1=CC=CC=2CCOC21 | C9H10O
